US06010981
E) 3-Chloro-4-bromo-2-phenyl(methylsulfonyl)benzene (2-Chloro-3-bromo-6-methylsulfonylbiphenyl)
A solution of 2.5 g (8.0 mmol) of 3-chloro-4-bromo-2-phenyl(methylthio)benzene in 75 mL of dichloromethane was cooled with an ice bath and 5.7 g of meta-chloroperbenzoic acid was added in small portions with cooling and stirring. The mixture was allowed to warm to ambient temperature and stir overnight and was then heated to reflux for a short time. An aqueous solution of sodium bisulfite was added and the mixture was made basic with sodium carbonate. The organic phase was separated, washed with dilute aqueous sodium bicarbonate solution, water, and saturated aqueous sodium chloride solution, dried over sodium sulfate, and concentrated by evaporation under reduced pressure. The 3.0 g of residue was the title compound as a low melting white solid.

reactant | 3-chloro-4-bromo-2-phenyl(methylthio)benzene | 8.0 mmol, 2.5 g | ClC=1C(=C(C=CC1Br)SC)C1=CC=CC=C1 | C13H10BrClS
reactant | meta-chloroperbenzoic acid | 5.7 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | 75 mL | ClCCl | CH2Cl2
product | 3-Chloro-4-bromo-2-phenyl(methylsulfonyl)benzene | ClC=1C(=C(C=CC1Br)S(=O)(=O)C)C1=CC=CC=C1 | C13H10BrClO2S
